US05077301
1. Synthesis of 1-[4-(hydroxydiphenylmethyl)-1-piperidyl]-2-(4-methoxyphenyl)ethane
A mixture of 4 g of α,α-diphenyl-4-piperidinomethanol, 0.94 g of powdered potassium hydroxide and 200 mg of KI are dispersed in 50 ml of toluene in a 250 ml round-bottomed flask. Addition of 2.3 ml of 4-methoxyphenylethyl chloride is followed by heating under reflux for 3 days.

reactant | α,α-diphenyl-4-piperidinomethanol | 4 g | C1CNCCC1C(C2=CC=CC=C2)(C3=CC=CC=C3)O | C18H21NO
reactant | potassium hydroxide | 0.94 g | [OH-].[K+]
reactant | 4-methoxyphenylethyl chloride | 2.3 ml | COC1=CC=C(C=C1)CCCl | C9H11ClO
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[4-(hydroxydiphenylmethyl)-1-piperidyl]-2-(4-methoxyphenyl)ethane | OC(C1CCN(CC1)CCC1=CC=C(C=C1)OC)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H31NO2
